US08039460B2
Step A: N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-hydrazonoazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide
Hydrazine monohydrate (1.46 mL, 30.1 mmol) was added to a solution of N-[(3R,6S)-6-(2,3-difluorophenyl)-2-thioxoazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide (502 mg, 1.00 mmol) in methanol (20 mL). After 30 min, the reaction was concentrated. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (3×). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated to give the title compound (515 mg). MS 499.1 (M+1).

reactant | Hydrazine monohydrate | 30.1 mmol, 1.46 mL | O.NN
reactant | N-[(3R,6S)-6-(2,3-difluorophenyl)-2-thioxoazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 1.00 mmol, 502 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=S)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C24H26F2N6O2S
solvent | methanol | 20 mL | CO | CH4O
product | N-[(3R,6S)-6-(2,3-Difluorophenyl)-2-hydrazonoazepan-3-yl]-4-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxamide | 515 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C(NC1)=NN)NC(=O)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C24H28F2N8O2
